US07262185B2
To a mixture of 90% nitric acid (15 ml) and water (22 ml) was added sodium nitrite (0.06 g) and then 3-hydroxymethyl-5-mercapto-4-ethyl-4H-1,2,4-triazole (7.5 g) was slowly added for 0.5 hours at 45° C. After allowing the mixture to be cooled to room temperature, sodium carbonate was slowly added thereto to adjust pH to 7 at 0° C. The reaction mixture was concentrated under reduced pressure, methanol was added to the residue, and the precipitates were removed by filtration. The mixture was concentrated under reduced pressure, and the obtained residue was separated and purified by column chromatography (ethanol:ethyl acetate 2:1), to give 4-ethyl-3-hydroxymethyl-4H-1,2,4-triazole (4.60 g) as brown oil.

reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 0.06 g | N(=O)[O-].[Na+]
reactant | 3-hydroxymethyl-5-mercapto-4-ethyl-4H-1,2,4-triazole | 7.5 g | OCC1=NN=C(N1CC)S | C5H9N3OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 22 ml | O | H2O
product | 4-ethyl-3-hydroxymethyl-4H-1,2,4-triazole | 4.60 g | C(C)N1C(=NN=C1)CO | C5H9N3O
